US04515814
3. 4-(2-Cyclopentyloxyethoxy)-phenol benzyl ether
A solution of 24 g (0.12 mol) of 4-benzyloxyphenol in 100 cc of DMF is added dropwise to a 50% suspension of 6.2 g (0.132 mol) of NaH in 50 cc of DMF. When the evolution of gas has ended, a solution of 36 g (0.127 mol) of 2-cyclopentyloxyethyl tosylate in 100 cc of DMF is then added. The mixture is stirred for half an hour. It is then heated for 2 hours at 55°-60° C. with stirring. The reaction mixture is poured into iced water. Extraction is carried out with diethyl ether. The ether phase is washed with dilute sodium hydroxide solution and then with water, dried and evaporated to dryness.

reactant | 4-benzyloxyphenol | 0.12 mol, 24 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | NaH | 0.132 mol, 6.2 g | [H-].[Na+]
reactant | 2-cyclopentyloxyethyl tosylate | 0.127 mol, 36 g | S(=O)(=O)(OCCOC1CCCC1)C1=CC=C(C)C=C1 | C14H20O4S
reactant | water | O | H2O
solvent | DMF | 100 cc | CN(C)C=O | C3H7NO
solvent | DMF | 50 cc | CN(C)C=O | C3H7NO
solvent | DMF | 100 cc | CN(C)C=O | C3H7NO
product | 4-(2-Cyclopentyloxyethoxy)-phenol benzyl ether | C(C1=CC=CC=C1)OC1=CC=C(C=C1)OCCOC1CCCC1 | C20H24O3
